US04098908
1-(p-phenoxyphenyl)-1-(3-pyridyl)-ethan-1-ol.
25 ml. of a solution of 25.0 g. 4-bromodiphenylether in 75 ml. tetrahydrofuran is added to 2.5 g. magnesium and, admixed with a small crystal of iodine to initiate the Grignard reaction. Thereafter, the remainder of the solution is added dropwise to maintain gentle reflux. The Grignard solution is then refluxed for 0.5 hours, cooled to 5°-10° and to it is added dropwise 12.1 g. of 3-acetylpyridine. The reaction mixture is then stirred at room temperature for 16 hours, decomposed with saturated aqueous ammonium chloride solution and extracted with ether. The ether extracts are combined and after drying over anhydrous sodium sulfate, filtered and evaporated i.v. to dryness. From the residue is crystallized from pentane/ether, 1-(p-phenoxyphenyl)-1-(3-pyridyl)-ethan-1-ol, m.p. 130°-132°.

reactant | 4-bromodiphenylether | C1=CC=C(C=C1)OC2=CC=C(C=C2)Br | C12H9BrO
reactant | magnesium | [Mg] | Mg
reactant | iodine | II | I2
reactant | 3-acetylpyridine | C(C)(=O)C=1C=NC=CC1 | C7H7NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-(p-phenoxyphenyl)-1-(3-pyridyl)-ethan-1-ol | O(C1=CC=CC=C1)C1=CC=C(C=C1)C(C)(O)C=1C=NC=CC1 | C19H17NO2
